US08487094B2
(R)—N-(1-(4-bromophenyl)ethyl)-2,2,2-trifluoroacetamide (20 g, 68 mmol) was dissolved in methanol (200 mL) and cooled in an ice-water bath. Then aqueous NaOH (2 M, 100 mL) was added to the above mixture. The reaction mixture was stirred overnight at ambient temperature. The reaction mixture was concentrated and then partitioned between CH2Cl2 and water. The aqueous layer was extracted with addition CH2Cl2 and the combined organic phases were dried over Na2SO4, filtered and concentrated to give (R)-1-(4-bromophenyl)ethan amine (9.8 g, 73%). 1H NMR (DMSO): 1.19 (m, 3H), 3.92 (m, 1H), 7.28 (m, 2H), 7.42 (m, 2H).

reactant | (R)—N-(1-(4-bromophenyl)ethyl)-2,2,2-trifluoroacetamide | 68 mmol, 20 g | BrC1=CC=C(C=C1)[C@@H](C)NC(C(F)(F)F)=O | C10H9BrF3NO
reactant | NaOH | 2 M, 100 mL | [OH-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | (R)-1-(4-bromophenyl)ethan amine | 9.8 g, 73% | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
